US07169926B1
According to the procedure described in example 3, step E; [3-(5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-cyclohexyl]-carbamic acid benzyl ester (90 mg, 0.21 mmol) was alkylated with 2-cyanobenzyl bromide (61 mg, 0.31 mmol) to give, after work-up and chromatography, {3-[3-(2-cyano-benzyl)-5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl]-cyclohexyl}-carbamic acid benzyl ester (94 mg, 82% yield). 1H-NMR (CDCl3): δ 8.38 (m, 1H), 7.74 (m, 1H), 7.25–7.57 (m, 10H), 6.82 (m, 1H), 6.21 (m, 1H), 5.97 (m, 1H), 5.08 (s, 2H), 3.78 (s, 3H), 3.67 (m, 1H), 2.87 (m, 1H), 2.08 (m, 1H), 2.0 (m, 1H), 1.87 (m, 2H), 1.72 (m, 2H), 1.61 (m, 1H), 1.49 (m, 1H), 1.32 (m, 1H). MS: calculated for C33H31N5O3+H 546.3; found: 546.2.

reactant | [3-(5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-cyclohexyl]-carbamic acid benzyl ester | 0.21 mmol, 90 mg | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C1=NC2=C(C(N(C=3C=CC=CC23)C)=O)N1)=O | C25H26N4O3
reactant | 2-cyanobenzyl bromide | 0.31 mmol, 61 mg | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
product | {3-[3-(2-cyano-benzyl)-5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl]-cyclohexyl}-carbamic acid benzyl ester | 94 mg, 82% yield | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C1=NC2=C(C(N(C=3C=CC=CC23)C)=O)N1CC1=C(C=CC=C1)C#N)=O | C33H31N5O3
